US05998433
a) Synthesis of 1-(2-diethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-3-(3-phenethylphenyl)propan-1-one
To a solution of 0.393 g (1.093 mmol) of 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-3-(3-phenethylphenyl) propan-1-one in 20 ml of acetic acid, 0.14 ml (1.3 mmol) of diethylamine and 0.11 g (1.3 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 1 hour. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=9/1) to yield the desired product.

reactant | 1-(5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-3-(3-phenethylphenyl) propan-1-one | 1.093 mmol, 0.393 g | O1C=CC2=C1CN(CC2)C(CCC2=CC(=CC=C2)CCC2=CC=CC=C2)=O | C24H25NO2
reactant | diethylamine | 1.3 mmol, 0.14 ml | C(C)NCC | C4H11N
reactant | formaldehyde | 1.3 mmol, 0.11 g | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(2-diethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-3-(3-phenethylphenyl)propan-1-one | C(C)N(CC)CC1=CC2=C(CN(CC2)C(CCC2=CC(=CC=C2)CCC2=CC=CC=C2)=O)O1 | C29H36N2O2
